US04737313
3-Fluoro-4-methoxybiphenyl was acetylated with acetyl chloride/AlCl3 in carbon disulfide in the usual way. The product was twice recrystallized from toluene to obtain 3'-fluoro-4'-methoxy-4-acetylbiphenyl (yield: 82%), m.p. 149°~149.5° C.

reactant | 3-Fluoro-4-methoxybiphenyl | FC=1C=C(C=CC1OC)C1=CC=CC=C1 | C13H11FO
reactant | acetyl chloride AlCl3 | C(C)(=O)Cl.[Al+3].[Cl-].[Cl-].[Cl-]
solvent | carbon disulfide | C(=S)=S | CS2
product | 3'-fluoro-4'-methoxy-4-acetylbiphenyl | yield: 82% | FC=1C=C(C=CC1OC)C1=CC=C(C=C1)C(C)=O | C15H13FO2
